US05399679
4(R)-nicotinoylthio-3(S)-[1(R)t-butyldimethylsilyloxyethyl]azetidin-2-one
To a solution of 4-(R)acetoxy-3(R)-[1(R)t-butyldimethylsilyloxyethyl]azetidin-2-one (2.87 g) in dioxane (40 ml), the sodium salt of thionicotinic acid (1.94 g) was added. Zinc chloride (1.7 g) was added to the resulting mixture and the reaction mixture was stirred for 4 hours at room temperature. The reaction mixture was then cooled at room temperature and poured in a mixture of ethyl acetate and water. The organic layer was separated, washed twice with water, dried over anhydrous sodium sulphate, and evaporated in vacuo. The residue was purified by column chromatography to give 1.9 g of the title product (52% yield).

reactant | 4-(R)acetoxy-3(R)-[1(R)t-butyldimethylsilyloxyethyl]azetidin-2-one | 2.87 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | sodium | [Na] | Na
reactant | thionicotinic acid | 1.94 g | C(C1=CN=CC=C1)(=S)O | C6H5NOS
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Zinc chloride | 1.7 g | [Cl-].[Zn+2].[Cl-]
product | 4(R)-nicotinoylthio-3(S)-[1(R)t-butyldimethylsilyloxyethyl]azetidin-2-one | 1.9 g, 52% yield | C(C1=CN=CC=C1)(=O)S[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C17H26N2O3SSi
